US08236808B2
Step 3: 3-[3-(Diaminomethylene-sulfamoyl)-4-methoxy-phenyl]-3-phenyl-propionic acid methyl ester
To a solution of 3-(3-chlorosulfonyl-4-methoxy-phenyl)-3-phenyl-propionic acid methyl ester (500 mg, 1.36 mmol) in DCM (50 mL) is added triethylamine (0.57 ml, 4.08 mmol) and guanidine hydrochloride (0.14 g, 1.50 mmol). The reaction mixture is stirred at RT overnight, then diluted with DCM (100 mL). The reaction mixture is washed with an aqueous saturated solution of NaHCO3 (30 mL), water (30 mL) then brine (30 mL). The organic phase is then dried over MgSO4, filtered and concentrated in vacuo. Purification of the residue by reverse phase chromatography (Isolute™ C18, 0-100% acetonitrile in water with 0.1% TFA) affords the title compound.

reactant | 3-(3-chlorosulfonyl-4-methoxy-phenyl)-3-phenyl-propionic acid methyl ester | 1.36 mmol, 500 mg | COC(CC(C1=CC=CC=C1)C1=CC(=C(C=C1)OC)S(=O)(=O)Cl)=O | C17H17ClO5S
reactant | triethylamine | 4.08 mmol, 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | guanidine hydrochloride | 1.50 mmol, 0.14 g | Cl.NC(=N)N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-[3-(Diaminomethylene-sulfamoyl)-4-methoxy-phenyl]-3-phenyl-propionic acid methyl ester | COC(CC(C1=CC=CC=C1)C1=CC(=C(C=C1)OC)S(N=C(N)N)(=O)=O)=O | C18H21N3O5S
